US07214698B2
0.10 mL (41 mmol) benzenesulphonic acid chloride were slowly added at 0° C. to a solution of 0.20 g (41 mmol) (R)-1-(3-amino-4-benzyloxyphenyl)-2-[1,1-dimethyl-3-(4-phenylimidazol-1-yl)-propylamino]-ethanol in 5 mL pyridine with vigorous stirring. After the addition was complete the reaction mixture was stirred for 4 h at 0° C. and then poured into 40 mL ice water/ethyl acetate (1:1). The phases were separated and the aqueous phase was extracted three times with 20 mL of ethyl acetate. The combined organic phases were dried over magnesium sulphate and the solvent was removed using the rotary evaporator. 0.14 g (0.28 mmol, 99%) (R)—N-(2-benzyloxy-5-{2-[1,1-dimethyl-3-(4-phenylimidazol-1-yl)-propylamino]-1-hydroxyethyl}-phenyl)-benzenesulphonamide was obtained as a white solid.

reactant | benzenesulphonic acid chloride | 41 mmol, 0.10 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | (R)-1-(3-amino-4-benzyloxyphenyl)-2-[1,1-dimethyl-3-(4-phenylimidazol-1-yl)-propylamino]-ethanol | 41 mmol, 0.20 g | NC=1C=C(C=CC1OCC1=CC=CC=C1)[C@H](CNC(CCN1C=NC(=C1)C1=CC=CC=C1)(C)C)O | C29H34N4O2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | (R)—N-(2-benzyloxy-5-{2-[1,1-dimethyl-3-(4-phenylimidazol-1-yl)-propylamino]-1-hydroxyethyl}-phenyl)-benzenesulphonamide | 0.28 mmol, 0.14 g, 99% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CNC(CCN1C=NC(=C1)C1=CC=CC=C1)(C)C)O)NS(=O)(=O)C1=CC=CC=C1 | C35H38N4O4S
